US05708008
5-(4-iodobenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 10.0 mg (0.044 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 32.0 mg (0.131 mMol) 4-iodobenzoic acid, 12.0 mg (60%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.044 mMol, 10.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 4-iodobenzoic acid | 0.131 mMol, 32.0 mg | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
product | 5-(4-iodobenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 12.0 mg, 60% | IC1=CC=C(C(=O)NC=2C=C3C(=CNC3=CC2)C2CCN(CC2)C)C=C1 | C21H22IN3O
